* PEX produced on Sun Aug 23 07:13:34 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from oscillator.ext - technology: gf180mcuD

.option scale=5n

.subckt oscillator OSC_OUT VSS VDD
X0 a_400_428# a_n1772_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=800
X1 a_n1772_428# OSC_OUT VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=800
X2 OSC_OUT a_400_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=800
X3 a_n1772_428# OSC_OUT VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=800
X4 a_400_428# a_n1772_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=800
X5 OSC_OUT a_400_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=800
C0 VDD a_n1772_428# 4.97121f
C1 a_400_428# OSC_OUT 0.96497f
C2 VDD a_400_428# 5.09295f
C3 VDD OSC_OUT 4.87799f
C4 a_400_428# a_n1772_428# 0.53106f
C5 a_n1772_428# OSC_OUT 0.95992f
C6 OSC_OUT VSS 7.29331f
C7 VDD VSS 33.8878f
C8 a_400_428# VSS 6.30751f ; **FLOATING
C9 a_n1772_428# VSS 6.2836f ; **FLOATING
.ends
